US04193999
A. 1,2-Di-O-(n-hexadecyl)-3-O-allyl-glycerol
Sodium hydride (1.78 g. of 50 wt. % dispersion in mineral oil, 37 mmoles) was added at 60° C. to a solution of 1,2-di-O-(n-hexadecyl)-glycerol (10 g., 18.5 mmoles) in N,N-dimethylformamide (100 ml.), and the resulting solution stirred for 20 minutes at 60° C. Allyl bromide (4.47 g., 37 mmoles) was then added dropwise and the resulting mixture stirred for 3 hours at 90° C., cooled, cautiosly diluted with water (200 ml.) to quench the reaction, and extracted with ether (3×150 ml.). The combined ether extract was washed with saturated aqueous sodium chloride solution, dried (MgSO4), filtered and evaporated in vacuo to an oil, which was purified by silica gel chromatography (elution with benzene) [10 g., 93% yield, oil, n.m.r. (CDCl3) δ 5.66-6.16 (m, 1, --OCH2CH=CH2), 5.25 (d of doublets, 2, --OCH2CH=CH2) and 4.03 (d, 2, --OCH2CH=CH2)].

reactant | Sodium hydride | 37 mmoles, 1.78 g | [H-].[Na+]
reactant | 1,2-di-O-(n-hexadecyl)-glycerol | 18.5 mmoles, 10 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)CO | C35H72O3
reactant | Allyl bromide | 37 mmoles, 4.47 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 1,2-Di-O-(n-hexadecyl)-3-O-allyl-glycerol | 93% yield | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC=C | C38H76O3
